US06265411B1
A solution of 6-fluorooxindole (407 mg, 2.7 mmol), (Synthesis 1993, 51), in DMF (6 ml) was added dropwise to sodium hydride (108 mg, 2.7 mmol, prewashed with hexane) in DMF (6 ml). The mixture was stirred for 30 minutes at ambient temperature and 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline (274 mg, 0.9 mmol), (prepared as described for the starting material in Example 22), was added as a solid. The mixture was heated at 65° C. for 30 minutes, allowed to cool and was partitioned between saturated aqueous ammonium chloride solution and methylene chloride. The organic layer was separated, dried (MgSO4), and the solvent removed by evaporation. The residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 5M ethereal hydrogen chloride (4 ml) was added. The mixture was concentrated by evaporation to 5 ml total volume and the resulting solid was collected by filtration, washed with ether and dried under vacuum to give 4-(6-fluorooxindol-3-yl)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride (175 mg, 40%).

reactant | 6-fluorooxindole | 2.7 mmol, 407 mg | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | sodium hydride | 2.7 mmol, 108 mg | [H-].[Na+]
reactant | 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline | 0.9 mmol, 274 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1C=NC=C1 | C14H13ClN4O2
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4-(6-fluorooxindol-3-yl)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride | 175 mg, 40% | Cl.FC1=CC=C2C(C(NC2=C1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCN1C=NC=C1 | InChI=1S/C22H18FN5O3.ClH/c1-30-18-9-15-16(10-19(18)31-7-6-28-5-4-24-12-28)25-11-26-21(15)20-14-3-2-13(23)8-17(14)27-22(20)29;/h2-5,8-12,20H,6-7H2,1H3,(H,27,29);1H
